US07595312B2
8b 2-amino-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-propionic acid-hydrochloride
50 mL conc. HCl were added to a solution of 40.0 g (94.16 mmol) of diethyl 2-acetylamino-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-malonate in 110 mL AcOH and 150 mL of water and the reaction mixture was heated to 140° C. for 4 h. The precipitate formed was filtered off and discarded. The filtrate was evaporated down i. vac., combined with 100 mL of EtOH and stirred for 15 min at RT. The precipitate formed was filtered off, washed with EtOH and dried i. vac. The crude product was used in the next reaction step without any further purification.

reactant | HCl | 50 mL | Cl | ClH
reactant | diethyl 2-acetylamino-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-malonate | 94.16 mmol, 40.0 g | C(C)(=O)NC(C(=O)OCC)(C(=O)OCC)CC1=CC(=C(C(=C1)C(F)(F)F)N)Cl | C17H20ClF3N2O5
solvent | AcOH | 110 mL | CC(=O)O | C2H4O2
solvent | water | 150 mL | O | H2O
product | 2-amino-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-propionic acid-hydrochloride | Cl.NC(C(=O)O)CC1=CC(=C(C(=C1)C(F)(F)F)N)Cl | InChI=1S/C10H10ClF3N2O2.ClH/c11-6-2-4(3-7(15)9(17)18)1-5(8(6)16)10(12,13)14;/h1-2,7H,3,15-16H2,(H,17,18);1H
